US07528160B2
{7-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-yl}-acetic acid
A solution of 7-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3,4-dihydro-1H-quinolin-2-one (233 mg, 0.557 mmol) in DMF (3.0 mL) is treated with NaH (67 mg, 1.67 mmol, 60%). The resulting suspension is heated at 57° C. for 40 minutes and cooled to room temperature. The t-butyl bromoacetate (217 mg, 1.11 mmol) is added and the suspension is stirred for 2 hours and then quenched with water. The mixture is extracted with EtOAc (30 mL×2) and the combined organics are dried (Na2SO4), concentrated, and purified on silica gel chromatography column with 20% EtOAc/Hexanes to obtain the intermediate compound. The intermediate is then treated with TFA (1.0 ml), CH2Cl2 (1.0 ml), H2O (0.1 mL) and stirred for 2 hours, concentrated and purified on silica gel chromatography (Hexanes/EtOAc/HOAc, 5/5/0.02) afford the title compound (65 mg, 25%). MS (MH+): 477.1; the structure is also confirmed by proton NMR.

reactant | 7-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3,4-dihydro-1H-quinolin-2-one | 0.557 mmol, 233 mg | CC=1N=C(SC1COC1=CC=C2CCC(NC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F | C21H17F3N2O2S
reactant | NaH | 1.67 mmol, 67 mg | [H-].[Na+]
reactant | t-butyl bromoacetate | 1.11 mmol, 217 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | TFA | 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.1 mL | O | H2O
solvent | CH2Cl2 | 1.0 ml | C(Cl)Cl | CH2Cl2
product | {7-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-yl}-acetic acid | 65 mg, 25% | CC=1N=C(SC1COC1=CC=C2CCC(N(C2=C1)CC(=O)O)=O)C1=CC=C(C=C1)C(F)(F)F | C23H19F3N2O4S
